US06987114B1
1-(2-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and 2-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (154 mg, yield: 39.5%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | 2-cyanobenzyl bromide | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
product | 1-(2-Cyanobenzyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 154 mg, yield: 39.5% | C(#N)C1=C(CN2C(NC(C(=C2OC2=CC(=CC(=C2)C)C)C(C)C)=O)=O)C=CC=C1 | C23H23N3O3
